US05663366
3.61 (10 mmoles) of 1-benzyl-3,5-dibromo-4-nitropyrazole are heated at 60° C. in 120 ml of a 30-percent aqueous ethylamine solution for 1 hour. After cooling, the product separates in the form of colorless crystals with a melting point of 122° C. 2.88 g (89 percent of theory) of 1-benzyl-3-bromo-5-ethylamino-4-nitropyrazole are obtained.

reactant | 1-benzyl-3,5-dibromo-4-nitropyrazole | C(C1=CC=CC=C1)N1N=C(C(=C1Br)[N+](=O)[O-])Br | C10H7Br2N3O2
reactant | ethylamine | C(C)N | C2H7N
product | 1-benzyl-3-bromo-5-ethylamino-4-nitropyrazole | 2.88 g, 89 percent | C(C1=CC=CC=C1)N1N=C(C(=C1NCC)[N+](=O)[O-])Br | C12H13BrN4O2
